US04474754
17(a). Preparation of Z-Tyr-OSu
1.04 Grams of Z-Tyr-OH was dissolved in 30 ml of tetrahydrofuran, to this solution 0.38 g of N-hydroxysuccinimide was added, then the reaction mixture was ice-cooled, 0.68 g of dicyclohexylcarbodiimide was added under ice-cooled condition, and the whole mixture was stirred at 4° C. for 18 hours. The precipitate formed was removed by suction filtration, the filtrate was subjected to distillation under a reduced pressure, to the residue obtained was added ethyl ether and petroleum ether and was decanted, then dried to obtain the desired product.

reactant | Z-Tyr-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO5
reactant | N-hydroxysuccinimide | 0.38 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 0.68 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Z-Tyr-OSu | N([C@@H](CC1=CC=C(C=C1)O)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C21H20N2O7
